US09227985B2
5-Nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carbonitrile (100 mg, 0.4 mmol) was added to a vigorously stirring mixture of aluminum oxide (100 mg, 1 mmol) and methanesulfonic acid (2 mL, 30 mmol) at room temperature. The reaction mixture was then heated to 120° C. for 20 min, allowed to cool to room temperature, and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude product. The product was purified by FCC on silica gel eluting a hexane:ethyl acetate gradient to give 5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxamide as clear oil (0.040 g. 40%). LCMS calculated for C14H13N4O4 (M+H)+: m/z=301.1. found: 301.1.

reactant | 5-Nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carbonitrile | 0.4 mmol, 100 mg | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)(C#N)C2=NC=CC=C2 | C14H10N4O3
reactant | aluminum oxide | 1 mmol, 100 mg | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | methanesulfonic acid | 30 mmol, 2 mL | CS(=O)(=O)O | CH4O3S
product | 5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxamide | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)(C(=O)N)C2=NC=CC=C2 | C14H12N4O4
